US05284837
A solution of (-)-2-(2-amino-6-chlorpurin-9-ylmethyl)-1,4-butanediol (11.5 mg, 0.0423 mmol) in 50 % aqueous formic acid (0.75 ml) was kept at 100° C./2 h and then evaporated to dryness, dissolved in 2 ml of water and lyophilized. The product was dissolved in 1 ml of water, 2 drops of conc. aqueous ammonia was added and the solution kept at 100° C. for 10 min, flushed with nitrogen to remove ammonia, and lyophilized. The residue was dissolved by warming with 1.2 ml of 20% aqueous methanol and the solution filtered and kept in open air to allow for slow partial evaporization of solvent. Crystalline needles were formed. Filtration, washing with 3 drops of water and drying yielded 6.4 mg (60%) of (-)-9-(4-hydroxy-2-hydroxymethylbutyl)guanine.

reactant | (-)-2-(2-amino-6-chlorpurin-9-ylmethyl)-1,4-butanediol | 0.0423 mmol, 11.5 mg | NC1=NC(=C2N=CN(C2=N1)CC(CO)CCO)Cl | C10H14ClN5O2
reactant | formic acid | 0.75 ml | C(=O)O | CH2O2
product | (-)-9-(4-hydroxy-2-hydroxymethylbutyl)guanine | 6.4 mg, 60% | OCCC(CN1C=2N=C(NC(C2N=C1)=O)N)CO | C10H15N5O3
